US06329392B1
Combine 4-hydroxy-3,5-dimethoxybenzoic acid (2.0 g, 12.6 mmol) and dichloromethane (200 mL). Add diphenyl diazomethane (2.67 g). After 1 hour, add an additional portion of diphenyl diazomethane (1.2 g). After 1 hour, add 4-hydroxy-3,5-dimethoxybenzoic acid (0.5 g). Concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting sequentially with 20% ethyl acetate/hexane and 50% ethyl acetate/hexane to obtain the diphenylmethyl 4-hydroxy-3,5-dimethoxybenzoate: Rf=0.56 (silica gel, 50% ethyl acetate/hexane).

reactant | 4-hydroxy-3,5-dimethoxybenzoic acid | 12.6 mmol, 2.0 g | OC1=C(C=C(C(=O)O)C=C1OC)OC | C9H10O5
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | diphenyl diazomethane | 2.67 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | diphenyl diazomethane | 1.2 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 4-hydroxy-3,5-dimethoxybenzoic acid | 0.5 g | OC1=C(C=C(C(=O)O)C=C1OC)OC | C9H10O5
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | diphenylmethyl 4-hydroxy-3,5-dimethoxybenzoate | OC1=C(C=C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1OC)OC | C22H20O5
